US07345067B2
13.9) (2-(3-Methoxy-propyl)-4-{methyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester
To 0.216 g (0.77 mmol) of the above prepared [2-(3-methoxy-propyl)-4-methylamino-phenoxy]-acetic acid ethyl ester, dissolved in 2.4 ml of abs. DMF, were added successively at 0° C. 0.037 g of NaH (60% in mineral oil, 1.2 eq.), 0.115 g (1 eq.) of NaI and 0.215 g (0.96 eq.) of 5-chloromethyl-4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole (WO02/28433). The reaction was allowed to proceed for 5 min at 0° C. and for 0.5 h at ambient temperature. Pouring onto crashed ice/aqueous 10% KHSO4, twofold extraction with EtOAc, washing with water and brine, drying over magnesium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/EtOAc=78/22), yielded 0.284 g of the title compound as light yellow oil, MS: 537.5 (MH)+.

reactant | [2-(3-methoxy-propyl)-4-methylamino-phenoxy]-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)NC)CCCOC)=O | C15H23NO4
reactant | NaH | 0.037 g, 1.2 eq. | [H-].[Na+]
reactant | NaI | 0.115 g, 1 eq. | [Na+].[I-]
reactant | 5-chloromethyl-4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole | 0.215 g, 0.96 eq. | ClCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C12H9ClF3NS
solvent | DMF | CN(C)C=O | C3H7NO
product | (2-(3-Methoxy-propyl)-4-{methyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester | 0.284 g | C(C)OC(COC1=C(C=C(C=C1)N(CC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)CCCOC)=O | C27H31F3N2O4S
